Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo ___ man with recent 
diagnosis of HTN who is presenting as a transfer for 
hyponatremia. Four days ago, he presented to an OSH with a 
headache for four days. He also was having significant nausea 
and vomiting causing poor PO intake. At the OSH, he labs were 
notable for Na was 115 --> 119 after 1L NS, K 2.8, Urine SG 
1.010, urine osm 393, urine Na 132, and serum osm 246. Na on ___ 
was 126. CT head and neck were normal. Of note, he was 
previously on chlorthalidone which was changed to lisinopril on 
___. 

In the ED, vitals were notable for normotension and bradycardia 
at 58-60 beats per minute. Exam was notable for flat neck veins. 
Labs showed Na 123 --> 126 and K 3.5, which was repleted. Renal 
was consulted who felt his hyponatremia was consistent with 
SIADH although noted his high UNa could be in the setting of
chlorthalidone. His urine Na are now consistent with normal ADH, 
so he is at high risk fo overcorrection and was placed on ddAVP. 
He was given 250 cc NS. 

On arrival to the floor, he reports his headache is a ___ right 
now and his nausea is much better. He has had bad headaches for 
over ___ years that are always associated with nausea/vomiting. 
He used to take ibuprofen for this but was told by his PCP to 
switch to Tylenol. His son also had migraines and died suddenly 
at age ___ from a severe headache, so he is very concerned about 
his own
headaches. He currently has some bad taste in his month for the 
past few days, but denies any heartburn symptoms at baseline. He 
denies any new vision changes, weakness, neck pain, CP, SOB, arm 
pain, hematemesis, coffee ground emesis, hematochezia, melena, 
leg swelling, rashes, or lightheadedness. 

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal 
limits.

 
Past Medical History:
HTN
Severe headaches for the past ___ years

 
Social History:
___
Family History:
Son - migraines, died after severe headache of unknown causes at 
age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.5 118/74 60 18 100%RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, mild tenderness in
epigastrum without guarding or rebound tenderness. No masses. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. ___ strength x4 extremities.
Normal sensation x4 extremities. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 
___ 0726 Temp: 97.6 PO BP: 128/77 R Lying HR: 51 RR: 18 O2
sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. Sitting up
in bed. Family member in chair next to bed.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation. 
EXTREMITIES: Warm, no edema b/l.
 
Pertinent Results:
ADMISSION LABS:
___ 04:26PM BLOOD WBC-8.9 RBC-4.09* Hgb-13.1* Hct-35.2* 
MCV-86 MCH-32.0 MCHC-37.2* RDW-11.8 RDWSD-36.5 Plt ___
___ 04:26PM BLOOD Neuts-72.6* Lymphs-17.9* Monos-7.7 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-6.43* AbsLymp-1.59 
AbsMono-0.68 AbsEos-0.10 AbsBaso-0.04
___ 04:26PM BLOOD Glucose-97 UreaN-7 Creat-0.9 Na-123* 
K-3.5 Cl-88* HCO3-23 AnGap-12
___ 04:26PM BLOOD Albumin-4.3
___ 04:26PM BLOOD Osmolal-248*

SODIUM TREND:
___ 05:07PM BLOOD Na-123*
___ 06:53PM BLOOD Na-126*
___ 11:44PM BLOOD Na-123* K-3.5
___ 03:50AM BLOOD Na-128*
___ 08:51AM BLOOD Na-123*
___ 10:22AM BLOOD Na-124*
___ 03:05PM BLOOD Na-122*
___ 06:45PM BLOOD Na-125*
___ 11:00PM BLOOD Na-125*
___ 03:24AM BLOOD Na-125*
___ 07:15AM BLOOD Na-127*
___ 11:07AM BLOOD Na-125*
___ 01:34PM BLOOD Na-129*
___ 05:40PM BLOOD Na-130*
___ 09:20PM BLOOD Na-132*
___ 12:40AM BLOOD Na-134*
___ 07:12AM BLOOD Glucose-97 UreaN-13 Creat-0.9 Na-136 
K-4.0 Cl-97 HCO3-23 AnGap-16
___ 02:55PM BLOOD Na-135

DISCHARGE LABS:
___ 07:19AM BLOOD Glucose-101* UreaN-19 Creat-0.9 Na-139 
K-4.2 Cl-102 HCO3-24 AnGap-13
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] He came in with hyponatremia which we believe was due to 
receiving chlorthalidone prior to admission. He should not 
receive a thiazide diuretic in the future.
[ ] He presented with tension headaches, which were worrisome to 
him because his son died suddenly after a headache. Should his 
insurance allow him to follow with a neurologist, he should be 
referred to see one to help manage his headaches.
[ ] He complained of insomnia, which can be further evaluated in 
the outpatient setting.
[ ] Although he was prescribed lisinopril after the 
chlorthalidone was discontinued in the outpatient setting, he 
was not treated with any blood pressure medications in the 
hospital and remained normotensive. His blood pressure should be 
monitored as an outpatient to determine if he needs an 
antihypertensive agent.
[ ] Please check his sodium at his follow-up appointment. Should 
he become hyponatremic again in the future, he will need to see 
nephrology.

# CODE: Full, presumed
# CONTACT: Nephew, ___ ___

SUMMARY:
========
Mr. ___ is a ___ yo ___ man with recent 
diagnosis of HTN who is presenting as a transfer for 
hyponatremia. 

ACUTE/ACTIVE ISSUES:
====================
#Hyponatremia
Likely initially hypovolemic hyponatremia that responded to IVF 
resuscitation. Patient then started to overcorrect with free 
water excretion. Started on ddAVP in the ED at ___. ddAVP was 
then stopped and he was started on salt tabs with fluid 
restriction. He responded appropriately and the salt tabs and 
fluid restriction were discontinued prior to discharge. His Na 
on discharge was 139.

#Epigastric tenderness
Patient presented with some epigastric tenderness that resolved 
after one day. Likely due to vomiting episodes.

#Headaches
Appeared to be tension-type headaches associated with stress. 
Reassuringly, CTA Head at hospital in ___ was 
negative for aneurysm. 

#ST segment changes on ECG
#1st degree heart block 
No chest pain or anginal equivalents. Likely normal 
repolarization. Troponins were negative.

CHRONIC/STABLE ISSUES:
======================
#HTN
Per conversation with pharmacist at Stop and Shop in ___, 
patient was started on chlorthalidone 25 mg QD on ___. He then 
was switched from chlorthalidone to lisinopril 10 mg QD on ___. 
His lisinopril was held while inpatient and he remained 
normotensive. It was not restarted at discharge.

#Insomnia 
Endorses over the past 8 months. Unclear trigger. This can be 
further evaluated as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
No discharge medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Hyponatremia
Tension type headache

SECONDARY DIAGNOSIS
====================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted because your sodium levels were dangerously 
low.

WHAT WAS DONE WHILE I WAS HERE?
- We gave you fluids and medications to help safely correct your 
sodium levels.
- Your sodium levels were monitored very closely.

WHAT DO I NEED TO DO ONCE I LEAVE?
- Please take your medications as prescribed.
- Please keep your appointments.
- If you get confused or feel more sleepy than usual, you should 
go to the Emergency Room to get your sodium level checked.

Best wishes,
Your ___ Care Team
 
Followup Instructions:
___